US08247569B2
1,4-Dioxaspiro[4.5]decane-8-carboxamide
To a solution of 1,4-dioxaspiro[4.5]decane-8-carboxylic acid (823 mg, 4.42 mmol) in tetrahydrofuran (22 mL), triethylamine (5.87 mL, 42.1 mmol) and n-propyl chloroformate were added at 0° C., and the obtained solution was stirred at the same temperature for 1 hour. After adding dropwise, the obtained solution was stirred at room temperature for 30 minutes. To the reaction solution, 28% aqueous ammonia (1.5 mL) was added, and the obtained solution was stirred at room temperature for 1 hour. The organic layer was separated from the reaction solution, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, n-hexane/ethyl acetate) to obtain the captioned compound (694 mg, 3.75 mmol, 85%) as a colorless amorphous product.

reactant | 1,4-dioxaspiro[4.5]decane-8-carboxylic acid | 4.42 mmol, 823 mg | O1CCOC12CCC(CC2)C(=O)O | C9H14O4
reactant | triethylamine | 42.1 mmol, 5.87 mL | C(C)N(CC)CC | C6H15N
reactant | n-propyl chloroformate | ClC(=O)OCCC | C4H7ClO2
reactant | ammonia | 1.5 mL | N | H3N
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
product | 1,4-Dioxaspiro[4.5]decane-8-carboxamide | 3.75 mmol, 694 mg, 85% | O1CCOC12CCC(CC2)C(=O)N | C9H15NO3
